US07053089B2
4-[(3-Chloro-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
2,3-Dichloropyrazine (1.0 g, 0.0067 mol), tert-butyl-4-(aminomethyl)piperidine-1-carboxylate (1.6 g, 0.0075 mol) (Astatech) and cesium carbonate (2.4 g, 0.0075 mol) in acetonitrile (10 mL) were heated to 90° C. under nitrogen for 18 h. The reaction was concentrated in vacuo, diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic extract was dried over sodium sulfate, filtered and chromatographed on silica using a gradient of 10 to 30% ethyl acetate/hexane to give the title compound as a foam. M.S.(M+1): 327.

reactant | 2,3-Dichloropyrazine | 0.0067 mol, 1.0 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | tert-butyl-4-(aminomethyl)piperidine-1-carboxylate | 0.0075 mol, 1.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | cesium carbonate | 0.0075 mol, 2.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-[(3-Chloro-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC=CN=C1Cl | C15H23ClN4O2
